US07601743B2
Preparation of 2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [2-(bicyclopropyl-1-ylcarbamoyl)-4-iodo-6-methyl-phenyl]-amide
2.08 g (3.91 mmol) (2-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-8-hydroxy-6-iodo-benzo[d][1,3]oxazin-4-one (prepared according to WO 04/067528), 0.6 g (4.50 mmol) bicyclopropyl-1-ylamine hydrochloride and 0.63 ml (4.50 mmol) triethylamine in 20 ml THF are heated 20 h at reflux. After cooling down, the precipitate is filtered and the mother liquor is evaporated. The residue is dissolved in 5 ml DMF and poured into 40 ml water. The crystals formed are filtered and purified by flash-chromatography (dichloromethane 40, diethylether 1) to afford 1.85 g title compound. 1H-NMR (CDCl3, 400 MHz. ppm): 0.11 (q, 2H), 0.45 (q, 2H), 0.62 (s, 4H), 1.4 (m, 1H), 2.10 (s, 3H), 6.50 (s, 1H), 7.40 (m, 2H), 7.51 (s, 1H), 7.77 (s, 1H), 7.85 (dd, 1H), 8.49 (m, 1H), 10.45 (s, 1H).

reactant | 2-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-8-hydroxy-6-iodo-benzo[d][1,3]oxazin-4-one | ClC=1C(=NC=CC1)N1N=C(C=C1C=1OC(C2=C(N1)C(=CC(=C2)I)O)=O)C(F)(F)F | C17H7ClF3IN4O3
reactant | bicyclopropyl-1-ylamine hydrochloride | 4.50 mmol, 0.6 g | Cl.C1(CC1)(C1CC1)N
reactant | triethylamine | 4.50 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [2-(bicyclopropyl-1-ylcarbamoyl)-4-iodo-6-methyl-phenyl]-amide | 1.85 g | C1(CC1)(C1CC1)NC(=O)C1=C(C(=CC(=C1)I)C)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl | C24H20ClF3IN5O2
